### PR TITLE
chore: Update bump to master

### PR DESCRIPTION
**Pull request by collares**
The `Nonempty`/`Set.Nonempty` confusion was probably resolved suboptimally, but the PR builds. It targets the `bump` branch and not `master` because it built on previous work, so merging this will update #171.

### CODE REVIEW

File: PFR/ApproxHomPFR.lean [hunk 1]
```diff
@@ -38,9 +38,9 @@ lemma nat_cauchy_schwartz {B : Type*} [Fintype B] (v w : B → ℕ) :
 lemma nat_cauchy_schwartz' {X : Type*} (B : Finset X) (v w : X → ℕ) :
   (B.sum (v * w))^2 ≤ B.sum (v^2) * B.sum (w^2) := by
   have := nat_cauchy_schwartz (fun b : B => v b) (fun b : B => w b)
-  rwa [← (show Finset.univ.sum (fun b : B => (v * w) b) = B.sum (v * w) from Finset.sum_attach),
-    ← (show Finset.univ.sum (fun b : B => (v^2 : X → ℕ) b) = B.sum (v^2) from Finset.sum_attach),
-    ← (show Finset.univ.sum (fun b : B => (w^2 : X → ℕ) b) = B.sum (w^2) from Finset.sum_attach)]
+  rwa [← (show Finset.univ.sum (fun b : B => (v * w) b) = B.sum (v * w) from Finset.sum_attach _ _),
+    ← (show Finset.univ.sum (fun b : B => (v^2 : X → ℕ) b) = B.sum (v^2) from Finset.sum_attach _ _),
+    ← (show Finset.univ.sum (fun b : B => (w^2 : X → ℕ) b) = B.sum (w^2) from Finset.sum_attach _ _)]
```
Comment (YaelDillies) [inline PFR/ApproxHomPFR.lean:43]: Just making you aware that the following is possibly a better fix
```suggestion
  rwa [← (show Finset.univ.sum (fun b : B => (v * w) b) = B.sum (v * w) from Finset.sum_attach ..),
    ← (show Finset.univ.sum (fun b : B => (v^2 : X → ℕ) b) = B.sum (v^2) from Finset.sum_attach ..),
    ← (show Finset.univ.sum (fun b : B => (w^2 : X → ℕ) b) = B.sum (w^2) from Finset.sum_attach ..)]
```
